US08957069B2
1-(7-Ethoxy-2,4,6-trimethyl-2,3-dihydro-1-benzofuran-5-yl)-4-(4-methoxy-3-methylphenyl)piperazine
By using 1-(7-ethoxy-2,4,6-trimethyl-2,3-dihydro-1-benzofuran-5-yl)piperazine (580 mg, 2.0 mmol) synthesized in Reference example 88 and 4-bromo-1-methoxy-2-methylbenzene (804 mg, 4.0 mmol), the reaction was carried out in the same manner as Example 23 to synthesize the title compound 375 mg (yield 46%). Melting point was 80 to 83° C. (ethanol-water).

reactant | 1-(7-ethoxy-2,4,6-trimethyl-2,3-dihydro-1-benzofuran-5-yl)piperazine | 2.0 mmol, 580 mg | C(C)OC1=C(C(=C(C=2CC(OC21)C)C)N2CCNCC2)C | C17H26N2O2
reactant | 4-bromo-1-methoxy-2-methylbenzene | 4.0 mmol, 804 mg | BrC1=CC(=C(C=C1)OC)C | C8H9BrO
product | 1-(7-Ethoxy-2,4,6-trimethyl-2,3-dihydro-1-benzofuran-5-yl)-4-(4-methoxy-3-methylphenyl)piperazine | 375 mg, yield 46% | C(C)OC1=C(C(=C(C=2CC(OC21)C)C)N2CCN(CC2)C2=CC(=C(C=C2)OC)C)C | C25H34N2O3
